US05547954
A stirred solution of 5.1 grams (0.018 mole) of 7-amino-4-bromo-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran and 25 mL of toluene in 100 mL of ethanol is cooled in an ice bath, and 2 mL (0.036 mole) of concentrated sulfuric acid is added slowly. Upon completion of addition, 2.0 grams (0.029 mole) of sodium nitrite is then added. The ice bath is then removed, and the reaction mixture is warmed to 75° C., where it is stirred for 30 minutes. After this time the reaction mixture is warmed to 95° C., where it stirred for one hour. The reaction mixture is then cooled and poured into 200 mL of water. The mixture is extracted with two 150 mL portions of diethyl ether. The combined extracts are dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel. Elution is accomplished using petroleum ether. The product-containing fractions are combined and concentrated under reduced pressure, yielding 3.6 grams of 4-bromo-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran. The NMR spectrum is consistent with the proposed structure.

reactant | 7-amino-4-bromo-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran | 0.018 mole, 5.1 grams | NC1=C(C=C(C=2CC(OC21)(C)C)Br)Cl | C10H11BrClNO
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 0.036 mole, 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.029 mole, 2.0 grams | N(=O)[O-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-bromo-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran | 3.6 grams | BrC1=CC(=CC2=C1CC(O2)(C)C)Cl | C10H10BrClO
